*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-123
* Inductance = 12uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-94MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-123_freq port1 port2 PARAMS: Cpar=0.29pF Ind=12uH
X1 port1 port2 Model2A PARAMS:
+ R1=284
+ R2=2
+ C= {Cpar}
+ K1=0.00527
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-123_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-89MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-153_freq port1 port2 PARAMS: Cpar=0.26pF Ind=15uH
X1 port1 port2 Model2A PARAMS:
+ R1=292
+ R2=2
+ C= {Cpar}
+ K1=0.00653
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-183
* Inductance = 18uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-68MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-183_freq port1 port2 PARAMS: Cpar=0.37pF Ind=18uH
X1 port1 port2 Model2A PARAMS:
+ R1=208
+ R2=2
+ C= {Cpar}
+ K1=0.00673
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-183_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-73MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-223_freq port1 port2 PARAMS: Cpar=0.26pF Ind=22uH
X1 port1 port2 Model2A PARAMS:
+ R1=324
+ R2=3
+ C= {Cpar}
+ K1=0.00893
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-273
* Inductance = 27uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-54MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-273_freq port1 port2 PARAMS: Cpar=0.39pF Ind=27uH
X1 port1 port2 Model2A PARAMS:
+ R1=374
+ R2=3
+ C= {Cpar}
+ K1=0.00933
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-273_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-333_freq port1 port2 PARAMS: Cpar=0.47pF Ind=33uH
X1 port1 port2 Model2A PARAMS:
+ R1=354
+ R2=4
+ C= {Cpar}
+ K1=0.00973
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-393
* Inductance = 39uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-37MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-393_freq port1 port2 PARAMS: Cpar=0.57pF Ind=39uH
X1 port1 port2 Model2A PARAMS:
+ R1=444
+ R2=4
+ C= {Cpar}
+ K1=0.00993
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-393_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-27MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-473_freq port1 port2 PARAMS: Cpar=0.92pF Ind=47uH
X1 port1 port2 Model2A PARAMS:
+ R1=408
+ R2=5
+ C= {Cpar}
+ K1=0.00993
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-473_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-563
* Inductance = 55uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-22MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-563_freq port1 port2 PARAMS: Cpar=1.16pF Ind=55uH
X1 port1 port2 Model2A PARAMS:
+ R1=552
+ R2=5
+ C= {Cpar}
+ K1=0.0101
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-563_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-683
* Inductance = 66uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-17MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-683_freq port1 port2 PARAMS: Cpar=1.64pF Ind=66uH
X1 port1 port2 Model2A PARAMS:
+ R1=370
+ R2=6
+ C= {Cpar}
+ K1=0.0108
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-683_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-823
* Inductance = 79uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-14MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-823_freq port1 port2 PARAMS: Cpar=1.96pF Ind=79uH
X1 port1 port2 Model2A PARAMS:
+ R1=335
+ R2=7
+ C= {Cpar}
+ K1=0.0117
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-823_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-104
* Inductance = 97uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-14MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-104_freq port1 port2 PARAMS: Cpar=1.59pF Ind=97uH
X1 port1 port2 Model2A PARAMS:
+ R1=433
+ R2=8
+ C= {Cpar}
+ K1=0.0147
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-104_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-124
* Inductance = 120uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-17MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-124_freq port1 port2 PARAMS: Cpar=0.87pF Ind=120uH
X1 port1 port2 Model2A PARAMS:
+ R1=596
+ R2=11
+ C= {Cpar}
+ K1=0.0198
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-124_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-154
* Inductance = 150uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-12MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-154_freq port1 port2 PARAMS: Cpar=1.5pF Ind=150uH
X1 port1 port2 Model2A PARAMS:
+ R1=434
+ R2=13
+ C= {Cpar}
+ K1=0.0198
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-154_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-184
* Inductance = 178uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-184_freq port1 port2 PARAMS: Cpar=1.79pF Ind=178uH
X1 port1 port2 Model2A PARAMS:
+ R1=518
+ R2=14
+ C= {Cpar}
+ K1=0.0205
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-184_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-224
* Inductance = 218uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-224_freq port1 port2 PARAMS: Cpar=2.17pF Ind=218uH
X1 port1 port2 Model2A PARAMS:
+ R1=469
+ R2=16
+ C= {Cpar}
+ K1=0.0231
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-224_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-274
* Inductance = 268uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-9MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-274_freq port1 port2 PARAMS: Cpar=1.59pF Ind=268uH
X1 port1 port2 Model2A PARAMS:
+ R1=573
+ R2=20
+ C= {Cpar}
+ K1=0.0301
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-274_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-334
* Inductance = 325uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-334_freq port1 port2 PARAMS: Cpar=1.7pF Ind=325uH
X1 port1 port2 Model2A PARAMS:
+ R1=517
+ R2=22
+ C= {Cpar}
+ K1=0.0363
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-334_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-394
* Inductance = 382uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-6MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-394_freq port1 port2 PARAMS: Cpar=2.37pF Ind=382uH
X1 port1 port2 Model2A PARAMS:
+ R1=517
+ R2=24
+ C= {Cpar}
+ K1=0.0426
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-394_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-474
* Inductance = 455uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-5MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-474_freq port1 port2 PARAMS: Cpar=2.66pF Ind=455uH
X1 port1 port2 Model2A PARAMS:
+ R1=414
+ R2=26
+ C= {Cpar}
+ K1=0.0451
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-474_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-564
* Inductance = 515uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-3MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-564_freq port1 port2 PARAMS: Cpar=6.09pF Ind=515uH
X1 port1 port2 Model2A PARAMS:
+ R1=238
+ R2=28
+ C= {Cpar}
+ K1=0.0477
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-564_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-684
* Inductance = 615uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-3MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-684_freq port1 port2 PARAMS: Cpar=6.36pF Ind=615uH
X1 port1 port2 Model2A PARAMS:
+ R1=217
+ R2=38
+ C= {Cpar}
+ K1=0.0505
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-684_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-824
* Inductance = 705uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-3MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-824_freq port1 port2 PARAMS: Cpar=7.71pF Ind=705uH
X1 port1 port2 Model2A PARAMS:
+ R1=206
+ R2=41
+ C= {Cpar}
+ K1=0.0631
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-824_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812LS-105
* Inductance = 820uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-2MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812LS-105_freq port1 port2 PARAMS: Cpar=9.65pF Ind=820uH
X1 port1 port2 Model2A PARAMS:
+ R1=220
+ R2=44
+ C= {Cpar}
+ K1=0.07
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812LS-105_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
